US07678798B2
5-[(4-{(3S)-4-[(1S,2R)-5-Bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidin-1-yl)carbonyl]-4,6-dimethylpyrimidine
To a slurry of (2S)-1-[(1R,2R)-5-bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-2-methyl-4-(4-methylpiperidin-4-yl)piperazine trihydrochloride (50 mg, 0.0916 mmol) in methylene chloride (6 mL) were added 4,6-dimethyl-pyrimidine-5-carboxylic acid (27.88 mg, 0.183 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (21.07 mg, 0.11 mmol), 1-hydroxybenzotriazole (13.62 mg, 0.101 mmol) and triethylamine (0.0894 mL, 0.641 mmol). The reaction mixture was stirred at room temperature overnight. Direct chromatography on silica gel with 10% MeOH/EtOAc(1% NH4OH) afforded the desired product (42 mg, 80%). LC-MS [M+1]=570.10; 572.05.

reactant | (2S)-1-[(1R,2R)-5-bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-2-methyl-4-(4-methylpiperidin-4-yl)piperazine trihydrochloride | 0.0916 mmol, 50 mg | Cl.Cl.Cl.BrC=1C=C2C[C@H]([C@@H](C2=CC1)N1[C@H](CN(CC1)C1(CCNCC1)C)C)OCC
reactant | 4,6-dimethyl-pyrimidine-5-carboxylic acid | 0.183 mmol, 27.88 mg | CC1=NC=NC(=C1C(=O)O)C | C7H8N2O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.11 mmol, 21.07 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.101 mmol, 13.62 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.641 mmol, 0.0894 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 5-[(4-{(3S)-4-[(1S,2R)-5-Bromo-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidin-1-yl)carbonyl]-4,6-dimethylpyrimidine | 42 mg, 80% | BrC=1C=C2C[C@H]([C@H](C2=CC1)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)C=1C(=NC=NC1C)C)C)C)OCC | C29H40BrN5O2
